US06713508B2
Step B: 7-(3-(2-Chloro-4-tert-butylphenoxy)propoxy)-2-methylchromane-2-carboxylic acid
The title compound was prepared from ethyl 7-(3-(2-chloro-4-tert-butylphenoxy)propoxy)-chromane-2-carboxylate following the procedures described in Example 1, Step C employing iodomethane instead of iodoethane, followed by hydrolysis as described in Example 1, Step G.

reactant | ethyl 7-(3-(2-chloro-4-tert-butylphenoxy)propoxy)-chromane-2-carboxylate | ClC1=C(OCCCOC2=CC=C3CCC(OC3=C2)C(=O)OCC)C=CC(=C1)C(C)(C)C | C25H31ClO5
reactant | iodomethane | IC | CH3I
product | 7-(3-(2-Chloro-4-tert-butylphenoxy)propoxy)-2-methylchromane-2-carboxylic acid | ClC1=C(OCCCOC2=CC=C3CCC(OC3=C2)(C(=O)O)C)C=CC(=C1)C(C)(C)C | C24H29ClO5
